US07838528B2
1.3) 1,4-Dibenzyl-octahydro-pyrrolo[3,2-b]pyrrole
A mixture of 1,3,4,6-tetramethanesulfonyloxyhexane (20.6 g), benzylamine (39.6 ml) and dioxane (550 ml) was boiled under reflux for three hours. The reaction solution was cooled, and triethylamine (60.5 ml) and acetyl chloride (25.9 ml) were added. After 40 minutes, the reaction mixture was concentrated and the residue was partitioned between hydrochloric acid (6 N) and ethyl acetate. The aqueous phase was made basic with sodium hydroxide solution (10 N) and extracted 4 times with ethyl acetate. The combined organic phases were dried over magnesium sulfate and concentrated. The product with the molecular weight of 292.43 (C20H24N2) was obtained in this way; MS (ESI): 293 (M+H+).

reactant | 1,3,4,6-tetramethanesulfonyloxyhexane | 20.6 g | CS(=O)(=O)OCCC(C(CCOS(=O)(=O)C)OS(=O)(=O)C)OS(=O)(=O)C | C10H22O12S4
reactant | benzylamine | 39.6 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | dioxane | 550 ml | O1CCOCC1 | C4H8O2
reactant | acetyl chloride | 25.9 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 60.5 ml | C(C)N(CC)CC | C6H15N
product | 1,4-Dibenzyl-octahydro-pyrrolo[3,2-b]pyrrole | C(C1=CC=CC=C1)N1C2C(CC1)N(CC2)CC2=CC=CC=C2 | C20H24N2
